Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=S(=O)(O[c:1]1[n:2][c:3]([NH2:4])[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][o:11]2)[c:12]1[N+:13](=[O:14])[O-:15])C(F)(F)F.[CH3:16][NH2:17]>>[c:1]1([NH:17][CH3:16])[n:2][c:3]([NH2:4])[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][o:11]2)[c:12]1[N+:13](=[O:14])[O-:15],O=S(=O)([O:101][c:1]1[n:2][c:3]([NH2:4])[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][o:11]2)[c:12]1[N+:13](=[O:14])[OH:15])C(F)(F)F.[CH3:16][NH2:17]>>[c:1]1([NH:17][CH3:16])[n:2][c:3]([NH2:4])[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][o:11]2)[c:12]1[N+:13](=[O:14])[OH:15],SNAr(ortho),"[(17, 1), ([1, 12], [12, 13]), ([13, 14], 14), (14, [14, 13]), ([13, 12], [12, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][n:11]1.[O:12]=[C:13]1[NH:14][c:15]2[cH:16][cH:17][cH:18][cH:19][c:20]2[C@:21]12[CH2:22][O:23][c:24]1[cH:25][c:26]3[c:27]([cH:28][c:29]12)[O:30][CH2:31][CH2:32][O:33]3>>[CH2:1]([c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][n:11]1)[N:14]1[C:13](=[O:12])[C@:21]2([c:20]3[c:15]1[cH:16][cH:17][cH:18][cH:19]3)[CH2:22][O:23][c:24]1[cH:25][c:26]3[c:27]([cH:28][c:29]12)[O:30][CH2:31][CH2:32][O:33]3,[O:12]=[C:13]1[NH:14][c:15]2[cH:16][cH:17][cH:18][cH:19][c:20]2[C@:21]12[CH2:22][O:23][c:24]1[cH:25][c:26]3[c:27]([cH:28][c:29]12)[O:30][CH2:31][CH2:32][O:33]3.[Br:101][CH2:1][c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][n:11]1>>[CH2:1]([c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][n:11]1)[N:14]1[C:13](=[O:12])[C@:21]2([c:20]3[c:15]1[cH:16][cH:17][cH:18][cH:19]3)[CH2:22][O:23][c:24]1[cH:25][c:26]3[c:27]([cH:28][c:29]12)[O:30][CH2:31][CH2:32][O:33]3,SN2,"[(14, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH2:2][CH2:3][CH3:4])=[O:5].[NH2:6][c:7]1[cH:8][cH:9][c:10]([CH:11]=[CH:12][CH2:13][N:14]2[CH2:15][CH2:16][C:17](=[C:18]3[c:19]4[cH:20][cH:21][cH:22][cH:23][c:24]4[CH:25]=[CH:26][c:27]4[cH:28][cH:29][cH:30][cH:31][c:32]43)[CH2:33][CH2:34]2)[cH:35][cH:36]1>>[C:1]([CH2:2][CH2:3][CH3:4])(=[O:5])[NH:6][c:7]1[cH:8][cH:9][c:10]([CH:11]=[CH:12][CH2:13][N:14]2[CH2:15][CH2:16][C:17](=[C:18]3[c:19]4[cH:20][cH:21][cH:22][cH:23][c:24]4[CH:25]=[CH:26][c:27]4[cH:28][cH:29][cH:30][cH:31][c:32]43)[CH2:33][CH2:34]2)[cH:35][cH:36]1,[NH2:6][c:7]1[cH:8][cH:9][c:10]([CH:11]=[CH:12][CH2:13][N:14]2[CH2:15][CH2:16][C:17](=[C:18]3[c:19]4[cH:20][cH:21][cH:22][cH:23][c:24]4[CH:25]=[CH:26][c:27]4[cH:28][cH:29][cH:30][cH:31][c:32]43)[CH2:33][CH2:34]2)[cH:35][cH:36]1.[OH:101][C:1]([CH2:2][CH2:3][CH3:4])=[O:5].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH2:2][CH2:3][CH3:4])(=[O:5])[NH:6][c:7]1[cH:8][cH:9][c:10]([CH:11]=[CH:12][CH2:13][N:14]2[CH2:15][CH2:16][C:17](=[C:18]3[c:19]4[cH:20][cH:21][cH:22][cH:23][c:24]4[CH:25]=[CH:26][c:27]4[cH:28][cH:29][cH:30][cH:31][c:32]43)[CH2:33][CH2:34]2)[cH:35][cH:36]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (6, 1), ([1, 5], 5), (303, 6.1), ([6.1, 6], 6), (5, [5, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][CH:2]1[CH2:3][CH2:4][N:5]([c:6]2[cH:7][cH:8][n:9][c:10]3[nH:11][cH:12][cH:13][c:14]23)[CH2:15][CH2:16]1>>[NH2:1][CH:2]1[CH2:3][CH2:4][N:5]([c:6]2[cH:7][cH:8][n:9][c:10]3[nH:11][cH:12][cH:13][c:14]23)[CH2:15][CH2:16]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH:2]1[CH2:3][CH2:4][N:5]([c:6]2[cH:7][cH:8][n:9][c:10]3[nH:11][cH:12][cH:13][c:14]23)[CH2:15][CH2:16]1.[H+:301]>>[NH2:1][CH:2]1[CH2:3][CH2:4][N:5]([c:6]2[cH:7][cH:8][n:9][c:10]3[nH:11][cH:12][cH:13][c:14]23)[CH2:15][CH2:16]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
